2137-08-02 06:51:00 Physician Resident Progress Note
Chief Complaint: observation and IVF resuscitation post-operatively
   74 yo male admitted from the OR for an extensive abdominal surgery
   which included sigmoid to anus resection, colostomy,ureteral diversion
   to small bowel, reconstruction of pelvic floor for recurrent colorectal
   cancer
   24 Hour Events:
   From early this morning the patient had a RSBI: 17 and ABG:
   7.40/38/119/22 .  He was on  [**4-29**] pressure support at 6am. Propofol was
   weaned to 25mcg and patient was ultimately extubated successfully and
   is doing well currently with oxygen saturations >95%, on NC now.  He
   was given total of  6 L fluid in OR then 10L overnight and is also
   still on .3 Phenylephrine to hold his BPs which will be weaned today,
   additional details in A& Plan section.
   Patient was c/o some right thigh pain this morning despite PCA.
   In addition, he was given 5% albumin in 500cc NS IVF this morning per
   surgery recs, last albumin 2.0
 INVASIVE VENTILATION - START [**2137-8-1**] 07:30 PM
 MULTI LUMEN - START [**2137-8-1**] 10:34 PM
 ARTERIAL LINE - START [**2137-8-1**] 10:37 PM
 TUNNELED (HICKMAN) LINE - START [**2137-8-1**] 11:01 PM
   unsure how long patient has had his hickman it is presently not
   accessed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-2**] 03:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-2**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 70 (70 - 87) bpm
   BP: 99/49(66) {83/49(61) - 118/61(81)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 11 (9 - 14)mmHg
   Total In:
                                                                  3,388 mL
                                                                  7,057 mL
   PO:
   TF:
   IVF:
                                                                  3,388 mL
                                                                  7,057 mL
   Blood products:
   Total out:
                                                                    395 mL
                                                                    825 mL
   Urine:
                                                                    110 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
                                                                    285 mL
                                                                    305 mL
   Balance:
                                                                  2,993 mL
                                                                  6,232 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 849 (663 - 849) mL
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 17
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/38/119/22/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 238
   Physical Examination:
   General: No acute distress, intubated, mildly sedated but alert and
   able to respond to commands and shake head appropriately
   HEENT:    PERRL, EOMI
   Lymphatic: Cervical WNL
   Cardiovascular: S1/ S2 appreciated, no murmurs or rubs noted
   Lungs: mild crackles at left base, otherwise clear
   Extremities: warm
   Skin:  Warm
   Neurologic: intubated: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Drains: 2 ostomies
 one colostomy at LUQ , and a bladder pouch ostomy
   site inferior to colostomy and  3 JP drains total. Rectal flap covered,
   small amt of blood drainage. Colostomy site clean and intact.
   Ileoconduit to small intestine with left lateral JP drain and 2 other
   JP drains at each medial thigh all with maroonish tinged discharge
   draining to about 50cc /hr. The 2 dressings at medial thighs b/l in
   tact. Mid-line abdominal dressing in place.
   Labs / Radiology
   187 K/uL
   9.4 g/dL
   130 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   26.4 %
   11.3 K/uL
        [image002.jpg]
   [**8-1**] labs above.
                             [**2137-8-1**]  08:02 PM
                             [**2137-8-1**]  08:11 PM
                             [**2137-8-1**]  11:27 PM
                             [**2137-8-2**]  12:37 AM
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
   WBC
   13.3
   11.3
   Hct
   35.6
   30.5
   30.3
   26.4
   Plt
   237
   187
   Cr
   1.1
   0.9
   0.8
   TCO2
   22
   19
   23
   24
   Glucose
   147
   133
   130
   Other labs: PT / PTT / INR:14.7/31.1/1.3, ALT / AST:[**8-11**], Alk Phos / T
   Bili:35/0.5, Lactic Acid:4.2 mmol/L, Albumin:2.0 g/dL, LDH:152 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan:
   In summary, this is a 74 year-old male with a history of recurrent
   rectal CA who presents with hypotension.
   .
   Plan:
   # Hypotension - most likely volume related at this time, per surgical
   service, will resuscitate aggressively with fluids.  LVEF=55% in [**Month (only) 591**]
   [**2136**].
   - Continuous LR at 125/hr finished this morning but will plan to bolus
   PRN per surgery recs and goal CVP 14-16 today with MAP above 60.
   - Will use PRN neosynephrine to keep MAP > 60 and UOP > 40cc/hr
   alongside PRN fluid boluses.
   .
   # Respiratory
 Extubated successfully this morning and doing well with
   oxygen saturations above 95% on low flow NC. Will get a repeat ABG on
   monitor today while maintianig BPs and will assess pain medications to
   anticipate possible oversedation and impairment in respiratory status.
   Pain moderately controlled now, will discuss possible PCA bolus with
   suregery/pain team.
   .
   # Abdominal surgery - NG tube to low-continous suction per surgical
   service, NPO, IV fluids.
   - Continue anti-emetics, will discuss discontinuation timeframe of NGT
   with surgery today
   - Tight glycemic control, ISS and gtt if needed, for wound healing.
   - TID hematocrit, transfuse for hematocrit fall > 3, hemodynamically
   stable now, will quantify specific HCT goal with surgery today as Hct
   has dropped from 35-30 to mid twenties, all likely [**1-26**] dilutional IVF
   effects but will touch base w/surgery
   .
   # FEN:  IV fluids and electrolyte repletion PRN
   .
   # Access: TLC
   .
   # PPx:  Heparin SC, Pneumoboots, TEDS  and famotidine
   .
   # Code:  Full code.
   .
   # Dispo:  ICU for now, coordinating care goals with surgical team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-02 09:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Received about 10L of lactated Ringers overnight. Also required
   phenylephrine. Albumin administered as well. CVP 9-14. Urine output
   approximately 80 cc/hr this morning.
   This AM, propofol weaned off. RSBI 17 this AM. Patient extubated.
   Epidural in place for pain control.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-8-1**] 07:30 PM
 MULTI LUMEN - START [**2137-8-1**] 10:34 PM
 ARTERIAL LINE - START [**2137-8-1**] 10:37 PM
 TUNNELED (HICKMAN) LINE - START [**2137-8-1**] 11:01 PM
   unsure how long patient has had his hickman it is presently not
   accessed
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-2**] 03:41 AM
   Other medications:
   Insulin, heparin sc, bupivacaine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-2**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.7
   HR: 81 (70 - 87) bpm
   BP: 96/48(64) {83/48(61) - 118/61(81)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 10 (9 - 14)mmHg
   Total In:
                                                                  3,388 mL
                                                                 14,232 mL
   PO:
   TF:
   IVF:
                                                                  3,388 mL
                                                                 13,857 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    395 mL
                                                                  1,365 mL
   Urine:
                                                                    110 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
                                                                    285 mL
                                                                    405 mL
   Balance:
                                                                  2,993 mL
                                                                 12,867 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 800 (663 - 849) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/38/119/22/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Clear anteriorally, Crackles : Fews rales laterally,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   187 K/uL
   130 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   26.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2137-8-1**]  08:02 PM
                             [**2137-8-1**]  08:11 PM
                             [**2137-8-1**]  11:27 PM
                             [**2137-8-2**]  12:37 AM
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
   WBC
   13.3
   11.3
   Hct
   35.6
   30.5
   30.3
   26.4
   Plt
   237
   187
   Cr
   1.1
   0.9
   0.8
   TCO2
   22
   19
   23
   24
   Glucose
   147
   133
   130
   Other labs: PT / PTT / INR:15.6/33.9/1.4, ALT / AST:[**8-11**], Alk Phos / T
   Bili:35/0.5, Lactic Acid:4.2 mmol/L, Albumin:2.0 g/dL, LDH:152 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: atelectasis or infiltrate at Left base. Possible small
   pleural effusion. Slight increase in interstitial markings.
   Assessment and Plan
   1) Respiratory Failure
   2) Hypotension
   3) Anemia
   4) Acidosis
   Patient did well throgh the night from a respiratory standpoint with
   good oxygenation. RSBI excellent this AM. Patient extubated. Monitor O2
   saturations and work of breathing today; with large volume
   resuscitation, may experience some capillary leak into the lung.
   Atelectasis on Left. Use incentive spirometer.
   BP improving off propofol. Try to wean phenylephrine (surgery prefers
   phenylephrine to norepinephrine for BP support); ongoing lactic
   acidosis may be related to local tissue underperfusion - anion gap up
   marginally when corrected for albumin. Continue to support fluid needs
   to keep CVP > [**10-6**]. Urine output good. Surgery prefers continuous
   infusion of fluid; will supplement with boluses as needed.
   Hct down with surgical blood loss and hemodilution. Not at threshold
   for transfusion now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-08-03 05:33:00 Physician Resident Progress Note
Chief Complaint:
   Post-operative monitoring, low BP
   24 Hour Events:
   He was given 1 Unit of blood overnight for a Hct that had gone down to
   23 from 26 and Hct back up to 27 today. He was also switched overnight
   from his PCA to an IV PRN .5-2mg  Dilaudid schedule in addition to his
   epidural with Bupivacaine at 16cc/hr rate.  He continues to have
   serosanguinous drainage in 3 JP drains and mixed urine and blood at
   ureteral ostomy site and colostomy site in tact at RUQ.  Patient had
   good pain control overnight and was saturating well at >95% on just 2L
   NC until 8am today when he had some SOB and is now on a face tent 40%
   with saturations in low-mid 90s.
   Neosynephrine pressor off for 3 hr. last night ,however, after pain
   medication  administration dropped b/p to 80
s in middle of night so
   Neo restarted. However stopped again after 1 hr after he was
   maintaining BPs  at 110
s/50
s range, off since about 1am .  Urine
   output >40 and MAP >60 goal.
   NGT removed by surgery yesturday and he remains NPO except ice chips.
 INVASIVE VENTILATION - STOP [**2137-8-2**] 09:03 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-2**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-2**] 08:43 PM
   Hydromorphone (Dilaudid) - [**2137-8-3**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-3**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 103 (75 - 117) bpm
   BP: 172/80(114) {83/41(55) - 172/80(114)} mmHg
   RR: 32 (10 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 16 (5 - 264)mmHg
   Total In:
                                                                 21,935 mL
                                                                    977 mL
   PO:
   TF:
   IVF:
                                                                 20,959 mL
                                                                    953 mL
   Blood products:
                                                                    977 mL
                                                                     23 mL
   Total out:
                                                                  3,950 mL
                                                                    953 mL
   Urine:
                                                                  2,910 mL
                                                                    663 mL
   NG:
   Stool:
   Drains:
                                                                  1,040 mL
                                                                    290 mL
   Balance:
                                                                 17,985 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 800 (800 - 800) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 20
   SpO2: 95%
   ABG: 7.40/38/119/23/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: No acute distress, alert and oriented x3, pleasant
   HEENT:    PERRL, EOMI, OP clear
   Neck : Lymphatic exam : Cervical WNL
   Cardiovascular: S1/ S2 appreciated, no murmurs or rubs noted, JVP 14cm
   Lungs: mild crackles at left base, otherwise clear
   Extremities: warm
   Skin:  Warm, no rashes
   Neurologic:  alert, oriented, sensation grossly in tact x 4
   extremities, CNs in tact. Motor and gait deferred.
   Drains: 2 ostomies
 one colostomy at LUQ , and a bladder pouch ostomy
   site inferior to colostomy and  3 JP drains total. Rectal flap covered,
   small amt of blood drainage. Colostomy site clean and intact.
   Ileoconduit to small intestine with left lateral JP drain and 2 other
   JP drains at each medial thigh all with maroonish tinged discharge
   draining actively. The 2 dressings at medial thighs b/l in tact.
   Mid-line abdominal dressing in place.
   Labs / Radiology
   187 K/uL
   9.4 g/dL
   105 mg/dL
   1.0 mg/dL
   23 mEq/L
   5.1 mEq/L
   14 mg/dL
   109 mEq/L
   137 mEq/L
   23.4 %
   11.3 K/uL
        [image002.jpg]
   Labs [**8-3**]: Na 137, K 4.2, Cl 109, Bicarb 24, BUN 16, Cr 1.1, Glu 102
                   CBC: wbc 8.6, Plts 144, Hct 27.6, Hgb 9.5
   CXR [**8-3**]:  shows effusions, fluid overload, some basilar atelectasis,
   air under right hemi-diaphragm
                             [**2137-8-1**]  08:11 PM
                             [**2137-8-1**]  11:27 PM
                             [**2137-8-2**]  12:37 AM
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
                             [**2137-8-2**]  02:48 PM
                             [**2137-8-2**]  07:48 PM
                             [**2137-8-3**]  12:15 AM
   WBC
   11.3
   Hct
   30.5
   30.3
   26.4
   23.4
   Plt
   187
   Cr
   0.9
   0.8
   0.5
   1.0
   TCO2
   22
   19
   23
   24
   Glucose
   133
   130
   73
   105
   Other labs: PT / PTT / INR:15.6/33.9/1.4, ALT / AST:[**8-11**], Alk Phos / T
   Bili:35/0.5, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan :
   In summary, this is a 74 year-old male with a history of recurrent
   rectal CA who presented with hypotension
   post-operatively after a sigmoid to anus resection, colostomy, bladder
   and distal ureteral resection, ureteral diversion to small bowel, and
   entero-gastric anastamoses with gastrostomy, gracilis and thigh skin
   flap reconstruction of pelvis and is stable currently.
   Plan:
   # Hypotension
resolved , neosynephrine discontinued, pain medications
   and PCA adjusted yesterday
   #Hypertension - today
s SBP climbing to 160-170s range. Most likely
   pain related and volume related at this time given aggressive IV fluid
   schedule with 125cc/hr LR.  LVEF=55% in [**2137-6-25**], history of CAD.
   - will plan to continue PRN Lasix IV to get some fluid off
   -maintain goal CVP 14-16 today with MAP above 60 and UOP goal  >
   40cc/hr
   -f/up surgery recs
   -consider B-Blocker, HTN meds if needed
   .
   # SOB/ Respiratory
 Extubated successfully [**8-2**]. Doing well with oxygen
   saturations above 95% on low flow NC until 8 am this morning.
   -Will get a repeat ABG
   - will assess pain medications, touch base with acute pain team. Pain
   moderately controlled now.  Will continue IV PRN Dilaudid for now
   .
   # Abdominal surgery - still NPO, holding IV fluids now as per above.
   Continue anti-emetics PRN.
   - Tight glycemic control, ISS and gtt if needed, for wound healing.
   - [**Hospital1 **] hematocrit, transfuse for hematocrit fall > 3, hemodynamically
   stable now.  Fall likely dilutional effect.
   # FEN:  IV fluids and electrolyte repletion PRN
   .
   # Access: TLC
   .
   # PPx:  Heparin SC, Pneumoboots, TEDS  and famotidine
   .
   # Code:  Full code.
   .
   # Dispo:  ICU for now, coordinating care goals with surgical teams
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-03 10:00:00 Physician Attending Progress Note
Chief Complaint: Post-op from pelvic exonteration complicated by
   hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 M PMH CAD, asthma, HTN, HL, GERD and metastatic rectal cancer s/p
   pelvic exonteration [**7-31**].  Post-operative course was complicated by
   hypotension.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2137-8-2**] 09:03 AM
   -Pain service consult: IV dilaudid Q2H 0.5 to 2 mg with better control
   -Continued serosanguinous drainage from JP drains
   -SpO2 into low 90s at 8 a.m. this morning
   -Heplocked IV this a.m. and dose of lasix given (had been getting 125
   cc / hr)
   -Hct down to 23% - received 1 unit PRBC
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Bupivicaine epidural
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-2**] 08:43 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-2**] 08:43 PM
   Hydromorphone (Dilaudid) - [**2137-8-3**] 06:35 AM
 IV bolus PRN
   Lorazepam (Ativan) - [**2137-8-3**] 06:50 AM
   Other medications:
   Lasix  20 mg IV x 1
   RISS
   Reglan 10 IV Q6H
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Tachypnea, Desat this a.m.
   Genitourinary: No(t) Foley, Conduit
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2137-8-3**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 103 (88 - 117) bpm
   BP: 199/97(137) {83/41(55) - 199/97(137)} mmHg
   RR: 28 (11 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 21 (9 - 264)mmHg
   Total In:
                                                                 21,935 mL
                                                                  1,537 mL
   PO:
   TF:
   IVF:
                                                                 20,959 mL
                                                                  1,514 mL
   Blood products:
                                                                    977 mL
                                                                     23 mL
   Total out:
                                                                  3,950 mL
                                                                  1,343 mL
   Urine:
                                                                  2,910 mL
                                                                    923 mL
   NG:
   Stool:
   Drains:
                                                                  1,040 mL
                                                                    420 mL
   Balance:
                                                                 17,985 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Face tent
   FiO2: 0.4
   SpO2: 95%
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : L base)
   Abdominal: Bowel sounds present, 3 JP drains, colostomy, bladder pouch
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   144 K/uL
   102 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   109 mEq/L
   137 mEq/L
   27.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2137-8-1**]  11:27 PM
                             [**2137-8-2**]  12:37 AM
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
                             [**2137-8-2**]  02:48 PM
                             [**2137-8-2**]  07:48 PM
                             [**2137-8-3**]  12:15 AM
                             [**2137-8-3**]  05:41 AM
   WBC
   11.3
   8.6
   Hct
   30.5
   30.3
   26.4
   23.4
   27.6
   Plt
   187
   144
   Cr
   0.9
   0.8
   0.5
   1.0
   1.1
   TCO2
   19
   23
   24
   Glucose
   133
   130
   73
   105
   102
   Other labs: PT / PTT / INR:14.4/31.6/1.3, ALT / AST:[**6-17**], Alk Phos / T
   Bili:44/0.9, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:169 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - Blunting L costophrenic angle.  Retrocardiac opacity.
   Air under the right hemidiaphragm.  Engorgement of the hilar
   vasculature.
   Microbiology: None.
   Assessment and Plan: 74 M metastatic rectal cancer s/p pelvic
   exonteration complicated by hypotension.  He is now hypertensive and
   volume overloaded.  He has diuresed about 1 L 30 mintues after 20 mg IV
   lasix.
   1)       Volume overload
 Gentle diuresis with IV lasix boluses.
   Heplock IV.
   2)      Pain control
 Continue IV dilaudid boluses.  Bupivicaine
   epidural.  Pain service following.
   3)      Hypertension
 Goals are MAP > 60, CVP 14-16,  UOP > 40 cc /
   hr.  [**Month (only) 60**] need to start beta-blockade and ACE inhibitor today.
   4)      Hypoxemia
 Likely related to volume overload, atelectasis.
   Diuresis as above.  Incentive spirometry.  OOB.
   5)      Abdominal surgery
 NPO except ice chips.  Continue reglan.
   6)      Electrolytes
 Repeat electrolytes this afternoon given
   diuresis.  Replete prn.
   7)      Anemia
 Likely post-operative and hemodilutional.  Improved
   after 1 unit PRBC.
   I as physically present with the fellow for discussion and presentation
   of the patient and would agree in full with the note of Dr. [**Last Name (STitle) **]
   including the history, exam, ROS and plan.  I would emphasize
   Patient is a 74 yo male with history of rectal CA and now with
   post-operative and continuing with some need for intermittent support
   overnight
the active issue is patient now has significant signs of
   volume overload with pulmonary infiltrates, hypoxemia and tachypnea.
   On Exam
   Will
   -Return anti-hypertensive therapy as above
patient with signficant
   hypertension
   -Continue with supplemental O2, incentive spirometry
   -Diuresis as possible and would expect substantial negative fluid
   balance today.
   -Diet recs per surgery
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines: R IJ, R a-line
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT: Heparin, boots, TEDS.
   Stress ulcer: Famotidine.
   VAP:  N/A.
   Comments:
   Communication:  Comments: Surgical teams, patient.
   Code status: Full code
   Disposition : Remains in ICU
   Total time spent:

2137-08-04 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Yesterday, pt required 40% facemask in afternoon to maintain sat in
   90s. Given Lasix 20mg IV x 1 with good UOP (was ~3L negative up to that
   point over 24 hrs.)
   Gradually weaned to 3L NC.
   SBP elevated to 200s over yesterday, with HR 80s-100s. Started
   Lopressor at 5mg IV q6, then changed to 7.5mg IV q4 for better BP
   control.  This a.m. dose initially held as BP in 113/67.  ART line
   readings inconsistent with cuff reads. Eventually received 7.5mg dose
   at 6:20am when BP returned to 150s systolic. Pt comfortable and
   asymptomatic this a.m.
   Pain control switched to epidural of Bupivicaine/Dilaudid 6-12cc/hr per
   Pain consult.
   This morning, pt is doing well. Denies any pain or nausea.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-8-3**] 08:25 AM
   Hydromorphone (Dilaudid) - [**2137-8-3**] 11:25 AM
   Famotidine (Pepcid) - [**2137-8-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-3**] 08:00 PM
   Metoprolol - [**2137-8-4**] 06:20 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2137-8-4**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 90 (83 - 106) bpm
   BP: 156/86(96) {118/68(80) - 156/92(106)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (8 - 21)mmHg
   Total In:
                                                                  1,717 mL
                                                                     74 mL
   PO:
   TF:
   IVF:
                                                                  1,694 mL
                                                                     74 mL
   Blood products:
                                                                     23 mL
   Total out:
                                                                  5,458 mL
                                                                    985 mL
   Urine:
                                                                  4,363 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
                                                                  1,095 mL
                                                                    450 mL
   Balance:
                                                                 -3,741 mL
                                                                   -912 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   Physical Examination
   Gen: alert, awake, NAD,  sitting up in bed, pleasant
   HEENT: mmm, EOMI grossly, PERRL, NCAT
   CV: RRR, no m/r/g, S1 S2 present
   LUNGS: mild bibasilar crackles, otherwise clear to auscultation
   bilaterally
   ABD: soft, NTND, bs+, midline incision uncovered today, approximated by
   staples without erythema/drainage, 2 ostomy sites in place- pink, no
   visible pus or exudate, 3 JP drains in place draining serosanguinous
   fluid
   EXT: trace edema LE bilaterally, no cyanosis/clubbing, pedal pulses
   palpable bilaterally
   Labs / Radiology
   140 K/uL
   9.1 g/dL
   83 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   7.6 K/uL
        WBC 7.6 Hct 26.3  Plt 140
         Na 138 K 4.0 Cl 107 HCO3 24  BUN 21  Cr 1.3  Glc 83
         INR 1.3  PT 13.9   PTT 30
   Blood cx x 2- pending
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
                             [**2137-8-2**]  02:48 PM
                             [**2137-8-2**]  07:48 PM
                             [**2137-8-3**]  12:15 AM
                             [**2137-8-3**]  05:41 AM
                             [**2137-8-3**]  12:30 PM
                             [**2137-8-4**]  04:19 AM
   WBC
   11.3
   8.6
   7.6
   Hct
   30.3
   26.4
   23.4
   27.6
   26.3
   Plt
   187
   144
   140
   Cr
   0.9
   0.8
   0.5
   1.0
   1.1
   1.0
   1.3
   TCO2
   23
   24
   Glucose
   133
   130
   73
   105
   102
   96
   83
   Other labs: PT / PTT / INR:13.9/30.0/1.2, ALT / AST:[**7-18**], Alk Phos / T
   Bili:44/0.6, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:180 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74 year-old male with a history of recurrent rectal CA who presented
   with hypotension
   post-operatively after a sigmoid to anus resection, colostomy, bladder
   and distal ureteral resection, ureteral diversion to small bowel, and
   entero-gastric anastamoses with gastrostomy, gracilis and thigh skin
   flap reconstruction of pelvis and is stable currently.
   Plan:
   # Hypotension
resolved , neosynephrine discontinued, pain medications
   and PCA adjusted yesterday.
   #Hypertension - yesterday SBP climbing to 160-170s range, with high in
   low 200s. Most likely pain related and volume related given large fluid
   shifts. Also has baseline HTN.  LVEF=55% in [**2137-6-25**], history of CAD.
   - Will continue Metoprolol, change dose to 7.5mg IV q6 for better BP
   control.
   - Consider transition to pt
s home PO meds when pt nears discharge
   -Maintain goal CVP 14-16 today with MAP above 60 and UOP goal  >
   40cc/hr, per surgery
   -F/u surgery recs
   .
   # SOB/ Respiratory
 Extubated successfully [**8-2**]. Satting well now on
   2LNC in  upper 90s. Likely improved now also as pain better controlled.
   - Will continue Bupivicaine/Dilaudid epidural per pain recs
   - Dilaudid IV PRN d/c
ed yesterday
   - Continue to encourage incentive spirometry and have pt OOB to chair
   again today
   .
   # Abdominal surgery - still NPO, holding IV fluids now as per above.
   Continue anti-emetics PRN.
   - Tight glycemic control, ISS and gtt if needed, for wound healing.
   - [**Hospital1 **] hematocrit, transfuse for hematocrit fall > 3, hemodynamically
   stable now.
   - Will transfuse 1 uPRBC this a.m. per Surgery request (Hct 26.3, 27.6
   yesterday). Check hct in p.m. post-transfusion.
   .
   # FEN:  IV fluids and electrolyte repletion PRN
   .
   # Access: PIV, Portacath, RIJ, A-line-> will pull this today as
   currently ineffective for BP monitoring and draws
   .
   # PPx:  Heparin SC, Pneumoboots, TEDS, famotidine IV, RISS
   .
   # Code:  Full code.
   .
   # Dispo:  Call out to surgical floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-08-04 10:01:00 Physician Attending Progress Note
Chief Complaint: Post-operative hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 M metastatic rectal CA s/p pelvic exonteration c/b post-operative
   hypotension that has now resolved.  He is volume overloaded and
   hypertensive now.
   24 Hour Events:
   -Diuresed with lasix 20 mg x 1
   -O2 weaned to 3L NC
   -Hypertension requiring IV beta-blockade
   -Difficulty with arterial line
   -IV dilaudid DC'd and placed back into the epidural
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2137-8-3**] 11:25 AM
   Metoprolol - [**2137-8-4**] 06:20 AM
   Famotidine (Pepcid) - [**2137-8-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2137-8-4**] 08:40 AM
   Other medications:
   Heparin SC
   RISS
   Reglan 10 mg Q6H
   Flovent
   Combivent
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2137-8-4**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (97
   HR: 96 (83 - 106) bpm
   BP: 151/75(105) {112/64(85) - 193/110(131)} mmHg
   RR: 20 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (8 - 18)mmHg
   Total In:
                                                                  1,717 mL
                                                                    147 mL
   PO:
   TF:
   IVF:
                                                                  1,694 mL
                                                                    147 mL
   Blood products:
                                                                     23 mL
   Total out:
                                                                  5,458 mL
                                                                  1,395 mL
   Urine:
                                                                  4,363 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
                                                                  1,095 mL
                                                                    560 mL
   Balance:
                                                                 -3,741 mL
                                                                 -1,248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L
   SpO2: 97%
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear.  Diminished at bases.  No
   wheezes or crackles.)
   Abdominal: Non-tender, Bowel sounds present, Midline incision c/d/i,
   ostomy pink. 3 JP drains with serosanguinous fluid
   Extremities: Right: 1+ at ankles, Left: 1+ at ankles
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   140 K/uL
   83 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-8-2**]  01:37 AM
                             [**2137-8-2**]  01:48 AM
                             [**2137-8-2**]  05:37 AM
                             [**2137-8-2**]  05:51 AM
                             [**2137-8-2**]  02:48 PM
                             [**2137-8-2**]  07:48 PM
                             [**2137-8-3**]  12:15 AM
                             [**2137-8-3**]  05:41 AM
                             [**2137-8-3**]  12:30 PM
                             [**2137-8-4**]  04:19 AM
   WBC
   11.3
   8.6
   7.6
   Hct
   30.3
   26.4
   23.4
   27.6
   26.3
   Plt
   187
   144
   140
   Cr
   0.9
   0.8
   0.5
   1.0
   1.1
   1.0
   1.3
   TCO2
   23
   24
   Glucose
   133
   130
   73
   105
   102
   96
   83
   Other labs: PT / PTT / INR:13.9/30.0/1.2, ALT / AST:[**7-18**], Alk Phos / T
   Bili:44/0.6, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:180 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Improved hilar fullness. Elevated right hemidiaphragm.
   Retrocardiac opacity with left costophrenic blunting.  R IJ in good
   position.
   Microbiology: Blood cultures - Negative.
   Assessment and Plan: 74 M metastatic rectal cancer status post pelvic
   exonteration complicated by post-operative hypotension that has now
   resolved.  He had an impressive diuresis yesterday with significant
   improvement in his respiratory status.  His pain is now under excellent
   control and his blood pressure is improved with IV beta-blockade.
   1)       HTN
 Continue IV lopressor
 Will space to Q6H.  Would resume
   ACE ihibitor when he is able to take orals.
   2)       Volume overload
 Autodiuresing.
   3)       Pain
 Continue epidural.  Pain service following.
   4)       Respiratory
 Improving with autodiuresis.  Continue standing
   Flovent and Combivent PRN.  OOB.
   5)       Anemia
 Receiving a unit of PRBC at surgical service
   request.
   6)       Dispo
 DC arterial line.  Will ask surgical team if we can DC
   central line in favor of port.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: R IJ, R arterial line.
   Multi Lumen - [**2137-8-1**] 10:34 PM
   18 Gauge - [**2137-8-1**] 10:35 PM
   Arterial Line - [**2137-8-1**] 10:37 PM
   Tunneled (Hickman) Line - [**2137-8-1**] 11:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Pepcid
   VAP: N/A
   Comments:
   Communication:  Comments: Patient, surgical team
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: